US08232286B2
METHYL 3-CHLORO-4-HYDRAZINO-BENZOATE
3.0 g (16.0 mmol) methyl-4-amino-3-chlorobenzoate are suspended in 15 ml of conc. hydrochloric acid and cooled to −10° C. First a solution of 1.1 g (16.0 mmol) sodium nitrite in 15 ml of water is added dropwise, then a solution of 16.1 g (71.0 mmol) tin(II)-chloride in 13.5 ml hydrochloric acid. A precipitate settles out. The reaction mixture is made basic with 3 molar sodium hydroxide solution, then suction filtered. The precipitate is extracted with dichloromethane and water, the organic phase is dried, combined with activated charcoal and evaporated to dryness. The residue is purified by chromatography. Yield: 1.4 g (M.p.: 120° C.)

reactant | methyl-4-amino-3-chlorobenzoate | 16.0 mmol, 3.0 g | COC(C1=CC(=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | sodium nitrite | 16.0 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | tin(II)-chloride | 71.0 mmol, 16.1 g | [Sn](Cl)Cl
reactant | sodium hydroxide | 3 molar | [OH-].[Na+]
solvent | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | hydrochloric acid | 13.5 ml | Cl | ClH
product | METHYL 3-CHLORO-4-HYDRAZINO-BENZOATE | ClC=1C=C(C(=O)OC)C=CC1NN | C8H9ClN2O2
